US08058299B2
2,2-Dimethyl-3-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid methyl ester (199 mg, 0.62 mmol) from above was dissolved in tetrahydrofuran (2 mL). Then methanol (4 mL) and sodium hydroxide solution (1N, 2 mL) were added. The mixture was stirred and refluxed for 8 hrs. Solvents were evaporated and the residue was dissolved in hot methanol. The solution was cooled to room temperature and hydrochloric acid (1N, 2 mL) was added. The resulting mixture was cooled in an ice bath and the solid was filtered and washed with water. The solid was dried in air to give 2,2-dimethyl-3-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid (181.5 mg). The NMR spectrum obtained on the sample is compatible with its structure. LC-MS calcd for C15H21N3O4 (m/e) 307.34, obsd 308.1 (M+H).

reactant | 2,2-Dimethyl-3-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid methyl ester | 0.62 mmol, 199 mg | COC(C(CC1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])(C)C)=O | C16H23N3O4
reactant | methanol | 4 mL | CO | CH4O
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid | 181.5 mg | CC(C(=O)O)(CC1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])C | C15H21N3O4
